US08703761B2
B. [2-Amino-4-(1-fluoro-1-methyl-ethyl)-thiazol-5-yl]-(4-fluoro-phenyl)-methanone
A mixture of 4-Fluoro-1-(4-fluoro-phenyl)-4-methyl-pentane-1,3-dione (900 mg) and Koser's reagent (4.2 g) in MeCN (20 mL) was heated at 80° C. for 50 min. The mixture was cooled to RT, and thiourea (820 mg) was added. The mixture was heated at 80° C. for 3 h., cooled to RT and partitioned between ethyl acetate and aq. KOH. The organic extract was dried over MgSO4, concentrated and chromatographed to give the title compound. m/z 283.2 (MH+). 1H NMR (DMSO-d6) 7.81 (dd, J=8, 4 Hz, 2H), 7.73 (s, 2H), 7.32 (t, J=8 Hz, 2H), 1.61 (d, J=20 Hz, 6H).

reactant | 4-Fluoro-1-(4-fluoro-phenyl)-4-methyl-pentane-1,3-dione | 900 mg | FC(C(CC(=O)C1=CC=C(C=C1)F)=O)(C)C | C12H12F2O2
reactant | Koser's reagent | 4.2 g | CC1=CC=C(C=C1)S(=O)(=O)OI(C2=CC=CC=C2)O | C13H13IO4S
reactant | thiourea | 820 mg | NC(=S)N | CH4N2S
solvent | MeCN | 20 mL | CC#N | C2H3N
product | [2-Amino-4-(1-fluoro-1-methyl-ethyl)-thiazol-5-yl]-(4-fluoro-phenyl)-methanone | NC=1SC(=C(N1)C(C)(C)F)C(=O)C1=CC=C(C=C1)F | C13H12F2N2OS
